US04057559
A solution of sodium tert.-amylate in toluene (340 ml, 0.297 mole) is added dropwise with stirring under nitrogen to a solution of 2-cyanomethylcycloheptanone (44.6 g, 0.297 mole, obtained as described above) and methyl iodide (42.6 g, 0.3 mole) in dry benzene (200 ml), and the mixture is stirred at 65° C for 4 hrs. and allowed to stand overnight at room temperature. The reaction mixture is washed with 1% aqueous hydrochloric acid, water, saturated sodium chloride solution, dried over magnesium sulfate, and the solvent is evaporated. Distillation of the residue under reduced pressure yields 2-cyanomethyl-2-methylcycloheptanone, bp. 152°-158° C/14 mm, nmr (CDCl3) δ1.27 (s, 3H).

reactant | toluene | 0.297 mole, 340 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-cyanomethylcycloheptanone | 0.297 mole, 44.6 g | C(#N)CC1C(CCCCC1)=O | C9H13NO
reactant | methyl iodide | 0.3 mole, 42.6 g | CI | CH3I
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-cyanomethyl-2-methylcycloheptanone | C(#N)CC1(C(CCCCC1)=O)C | C10H15NO
